US04128658
5-(Dimethylamino)methyl-2-furanmethanol (15.5 g) was added dropwise to a stirred, ice-cold solution of cysteamine hydrochloride (11.36 g) in concentrated hydrochloric acid (40 ml). After standing at 0° for 18 hr, excess anhydrous sodium carbonate was added and the resultant solid extracted with diethyl ether. Removal of solvent followed by distillation of the residue gave 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (11.6 g) b.p. 104-106° (0.1 mm). Picrate salt m.p. 142-144°.

reactant | 5-(Dimethylamino)methyl-2-furanmethanol | 15.5 g | CN(C)CC1=CC=C(O1)CO | C8H13NO2
reactant | cysteamine hydrochloride | 11.36 g | Cl.NCCS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 11.6 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
